US07053212B2
Step B: Cyclohexanecarboxylic acid (4-hydroxy-benzyl)-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amide
To a solution of toluene-4-sulfonic acid 4-({cyclohexanecarbonyl-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amino}-methyl)-phenyl ester in 5 mL methanol was added 5N NaOH (0.50 mL). The reaction mixture was heated at reflux until complete as judged by TLC and MS. The reaction mixture was washed with methylene chloride. The organic layer was concentrated to afford 0.045 g (41%) of the title compound. MS 423.2 (M+1)+

reactant | toluene-4-sulfonic acid 4-({cyclohexanecarbonyl-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amino}-methyl)-phenyl ester | C1(CCCCC1)C(=O)N(C1=CC=C(C=C1)OCCN1CCCC1)CC1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C33H40N2O5S
reactant | NaOH | 5N, 0.50 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | Cyclohexanecarboxylic acid (4-hydroxy-benzyl)-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amide | 0.045 g, 41% | OC1=CC=C(CN(C(=O)C2CCCCC2)C2=CC=C(C=C2)OCCN2CCCC2)C=C1 | C26H34N2O3
